US07199147B2
To a solution of 3-(benzyloxy)-N-(1H-indazol-5-yl)propanamide (500 mg, 1.69 mmol) in methanol (100 ml) were added 1N-hydrochloric acid and 10% Pd—C (70 mg), and catalytic reduction was carried out at ordinary temperature and atmospheric pressure. After completion of the reaction, the catalyst was filtered off and the filtrate was concentrated under reduced pressure. The resulting residue was dissolved in a mixture of chloroform and methanol, followed by adding thereto hexane. The solid precipitated was collected by filtration and dried under reduced pressure to obtain 3-hydroxy-N-(1H-indazol-5-yl)propanamide (201 mg, 58%).

reactant | 3-(benzyloxy)-N-(1H-indazol-5-yl)propanamide | 1.69 mmol, 500 mg | C(C1=CC=CC=C1)OCCC(=O)NC=1C=C2C=NNC2=CC1 | C17H17N3O2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd—C | 70 mg | [Pd] | Pd
product | 3-hydroxy-N-(1H-indazol-5-yl)propanamide | 201 mg, 58% | OCCC(=O)NC=1C=C2C=NNC2=CC1 | C10H11N3O2
